### PR TITLE
[Merged by Bors] - feat(Data/Int): `m/n/k=m/(n*k)`

### PR DESCRIPTION
**Pull request by jhanschoo**
Add a lemma that `m/n/k=m/(n*k)` under `ediv` and `fdiv` for positive divisors.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/DivMod.lean [hunk 1]
```diff
@@ -4,6 +4,8 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Kim Morrison
 -/
 
+import Init.Data.Int.DivMod.Lemmas
+import Init.Data.Int.Lemmas
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Int/DivMod.lean:8]: You should not need to import these explicitly

File: Mathlib/Data/Int/DivMod.lean [hunk 2]
```diff
@@ -13,6 +13,40 @@ import Mathlib.Init
 
 namespace Int
 
+/-! ### `ediv` and `fdiv` -/
+
+theorem ediv_ediv_eq_ediv_mul (m : Int) {n k : Int} (hn : 0 < n) (hk : 0 < k) :
```
Comment (urkud) [inline Mathlib/Data/Int/DivMod.lean:18]: I think that this should be true for all `k`, isn't it?

Comment (urkud) [reply Mathlib/Data/Int/DivMod.lean:18]: This proof works with weaker assumptions. It uses `wlog` but it's easy to work around if you want to.
```
theorem Int.mul_div_le_mul_div_assoc {a : Int} (ha : 0 ≤ a) (b : Int) {c : Int} (hc : 0 ≤ c) :
    a * (b / c) ≤ a * b / c := by
  obtain rfl | hlt : c = 0 ∨ 0 < c := by omega
  · simp
  · rw [Int.le_ediv_iff_mul_le hlt, Int.mul_assoc]
    exact Int.mul_le_mul_of_nonneg_left (Int.ediv_mul_le b (Int.ne_of_gt hlt)) ha

theorem Int.ediv_ediv_eq_ediv_mul (m : Int) {n k : Int} (hn : 0 ≤ n) :
    m / n / k = m / (n * k) := by
  wlog hk : 0 < k generalizing k
  · rcases (Int.lt_trichotomy 0 k).resolve_left hk with rfl | hk
    · simp
    · rw [← Int.neg_neg (m / n / k), ← Int.ediv_neg, this (Int.neg_pos_of_neg hk), ← Int.ediv_neg,
        Int.mul_neg, Int.neg_neg]
  obtain rfl | hn' : n = 0 ∨ 0 < n := by omega
  · simp
  · apply Int.le_antisymm
    · apply Int.le_ediv_of_mul_le (Int.mul_pos hn' hk)
      calc
        m / n / k * (n * k) = m / n / k * k * n := by ac_rfl
        _ ≤ m / n * n :=
          Int.mul_le_mul_of_nonneg_right (Int.ediv_mul_le (m / n) (Int.ne_of_gt hk)) hn
        _ ≤ m :=
          Int.ediv_mul_le m (Int.ne_of_gt hn')
    · apply Int.le_ediv_of_mul_le hk
      rw [← Int.mul_ediv_mul_of_pos_left m n hk, Int.mul_comm m k, Int.mul_comm (_ / _) k]
      apply Int.mul_div_le_mul_div_assoc
      exact Int.le_of_lt hk
      exact Int.le_of_lt <| Int.mul_pos hn' hk
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
